### PR TITLE
Additions & changes in seq, tuple, finset and perm

### PR DESCRIPTION
**Pull request by CohenCyril**
#### Overlays (to be merged before the current PR)

* https://github.com/rocq-community/coqeal/pull/115
* https://github.com/rocq-community/coqeal/pull/116
* https://github.com/rocq-community/coqeal/pull/117

##### Minimal TODO list

- [x] added changelog entries with `doc/changelog/make-entry.sh`

- [x] added corresponding documentation in the headers
- [x] tried to abide by the [contribution guide](https://github.com/math-comp/math-comp/blob/master/CONTRIBUTING.md)
- [x] this PR contains an optimum number of meaningful commits

See [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs) for details.

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs).

### CODE REVIEW

File: algebra/finalg.v [hunk 1]
```diff
@@ -481,5 +481,5 @@ Qed.
 
 (* Finite Algebraic structure for bool *)
 
-#[hnf] HB.instance Definition _ := GRing.NzRing.on bool.
-#[hnf] HB.instance Definition _ := isField.Build bool.
+HB.saturate bool.
+HB.saturate ordinal.
```
Comment (proux01) [inline algebra/finalg.v:488]: The added instances could be documented in the changelog.

File: doc/changelog/02-changed/1523-tact.md [hunk 2]
```diff
@@ -0,0 +1,12 @@
...
+    ([#1523](https://github.com/math-comp/math-comp/pull/1523)).
+- in `perm.v`
+  + moved definition `lift0_perm` and lemmas `lift0_perm0`, `lift0_perm_lift`, `lift0_permK` and `lift0_perm_eq0` from `zmodp.v`
+    ([#1523](https://github.com/math-comp/math-comp/pull/1523)).
+- in `nmodule.v`
+  + moved definitions `Zp0`, `Zp1`, `Zp_add`, `Zp_opp`, `Zp_mul` and `inZp` from
+    `zmodp.v`, lemmas `Zp_addA`, `Zp_addC`, `Zp_mulA` , `Zp_mul_addr`,
+    `Zp_mul_addl`, `Zp_inv_out`, `modZp`, `valZpK`, `Zp_add0z` and `Zp_addNz`,
+    and the Zmodule instance on `I_p.+1` from `zmodp.v`,
+    ([#1523](https://github.com/math-comp/math-comp/pull/1523)).
```
Comment (proux01) [inline doc/changelog/02-changed/1523-tact.md:14]: This list is missing the lemmas `ord1`, `lshift0`, `rshift1`, `split1` and `unliftP`

File: algebra/finalg.v (hunk 1 above)
Comment (proux01) [reply algebra/finalg.v:488]: In fact, it appears we are loosing
```
Datatypes_bool__canonical__GRing_DecidableField is defined
Datatypes_bool__canonical__CountRing_DecidableField is defined
```
(that we can retrieve by retrieving `#[hnf] HB.instance Definition _ := isField.Build bool.`)
and the second line doesn't build any instance on `ordinal`

Comment (CohenCyril) [reply algebra/finalg.v:488]: This means HB saturate is not complete :-/

Comment (CohenCyril) [reply algebra/finalg.v:488]: I thought I checked though...

Comment (CohenCyril) [reply algebra/finalg.v:488]: This calls for an urgent need of https://github.com/math-comp/hierarchy-builder/issues/448

Comment (proux01) [reply algebra/finalg.v:488]: > I thought I checked though...

My bad, I compiled only algebra from this PR onto boot from master. When also compiling boot from here, we get
```
fintype_ordinal__canonical__CountRing_Nmodule is defined
fintype_ordinal__canonical__CountRing_Zmodule is defined
fintype_ordinal__canonical__FinRing_Nmodule is defined
fintype_ordinal__canonical__FinRing_Zmodule is defined
```

Comment (proux01) [reply algebra/finalg.v:488]: > This means HB saturate is not complete :-/

No, `isField` is an (empty) factory from finalg.v, not a mixin. HB.saturate is not expected to call factories (even empty ones) isn't it?

Comment (CohenCyril) [reply algebra/finalg.v:488]: You are right!

File: fingroup/perm.v [hunk 3]
```diff
@@ -541,7 +542,6 @@ Proof.
 elim: ts => [_|t ts IHts] /=; first by rewrite big_nil odd_perm1.
 by case/andP=> dt12 dts; rewrite big_cons odd_mul_tperm dt12 IHts.
 Qed.
-
```
Comment (proux01) [inline fingroup/perm.v:544]: Not sure why this line get removed

File: doc/changelog/02-changed/1523-tact.md [hunk 4]
```diff
@@ -0,0 +1,14 @@
...
+- in `perm.v`
+  + moved definition `lift0_perm` and lemmas `lift0_perm0`, `lift0_perm_lift`, `lift0_permK` and `lift0_perm_eq0` from `zmodp.v`
+    ([#1523](https://github.com/math-comp/math-comp/pull/1523)).
+- in `nmodule.v`
+  + moved definitions `Zp0`, `Zp1`, `Zp_add`, `Zp_opp`, `Zp_mul` and `inZp` from
+    `zmodp.v`
+  + moved lemmas `Zp_addA`, `Zp_addC`, `Zp_mulA` , `Zp_mul_addr`,
+    `Zp_mul_addl`, `Zp_inv_out`, `modZp`, `valZpK`, `Zp_add0z`, `Zp_addNz`,
+    `ord1`, `lshift0`, `rshift1`, `split1` and `unliftP` from `zmodp.v`
```
Comment (proux01) [inline doc/changelog/02-changed/1523-tact.md]:
```suggestion
    `ord1`, `lshift0`, `rshift1` and `split1` from `zmodp.v`
```

File: boot/seq.v [hunk 5]
```diff
@@ -410,6 +412,9 @@ Lemma nth_cat s1 s2 n :
   nth (s1 ++ s2) n = if n < size s1 then nth s1 n else nth s2 (n - size s1).
 Proof. by elim: s1 n => [|x s1 IHs] []. Qed.
 
+Lemma nth_cons x s n : nth (x :: s) n = if n > 0 then nth s n.-1 else x.
+Proof. by rewrite -cat1s nth_cat/=; case: n => //= n; rewrite subn1. Qed.
```
Comment (proux01) [inline boot/seq.v]:
```suggestion
Lemma nth_cons x s n : nth (x :: s) n = if n > 0 then nth s n.-1 else x.
Proof. by case: n. Qed.
```
